US09102669B2
5-(6-(4-(6-Fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-3-methyl-1,2,4-thiadiazole was prepared according to the procedure as described in Example 1, Method B, STEP 2, reacting 6-fluoro-1-(piperidin-4-yl)indoline as its corresponding HCl salt and 5-(6-chloropyridazin-3-yl)-3-methyl-1,2,4-thiadiazole, prepared as in STEP 1 above.

reactant | 6-fluoro-1-(piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
reactant | HCl | Cl | ClH
reactant | 5-(6-chloropyridazin-3-yl)-3-methyl-1,2,4-thiadiazole | ClC1=CC=C(N=N1)C1=NC(=NS1)C | C7H5ClN4S
product | 5-(6-(4-(6-Fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-3-methyl-1,2,4-thiadiazole | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C1=NC(=NS1)C | C20H21FN6S
